US04743601
8'-Chloro-spiro[cyclohexane-1,3'-[3H][1,4]oxazino[2,3-c]quinoline]
A solution of 16.4 g of 3-bromo-7-chloro-N-[1-hydroxycyclohexylmethyl]-4-quinolinamine in 176 ml of dimethylformamide was stirred at room temperature and to it was added 7.54 g of potassium tert-butoxide. The mixture was heated at 130°-140° C. for twenty hours. The reaction mixture was then cooled to room temperature, quenched with water, and extracted with an ether/ethyl acetate solution. Evaporation of solvents resulted in a crude oil which was purified by HPLC using 2:1 hexane/ethyl acetate as the eluent. A solid resulted which was recrystallized from isopropanol to yield 4 g of crystalline solid with a melting point of 216°-218° C.

reactant | 3-bromo-7-chloro-N-[1-hydroxycyclohexylmethyl]-4-quinolinamine | 16.4 g | BrC=1C=NC2=CC(=CC=C2C1NCC1(CCCCC1)O)Cl | C16H18BrClN2O
reactant | potassium tert-butoxide | 7.54 g | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 176 ml | CN(C=O)C | C3H7NO
product | 8'-Chloro-spiro[cyclohexane-1,3'-[3H][1,4]oxazino[2,3-c]quinoline] | 4 g | ClC=1C=CC=2C3=C(C=NC2C1)OC1(C=N3)CCCCC1 | C16H15ClN2O
